US07790724B2
b) 4-Amino-3-cyclohex-1-enyl-benzamide
The title compound was prepared by the Suzuki coupling procedure of Example 11, step (e) using 4-amino-3-bromo-benzamide (as prepared in the previous step, 500 mg, 2.32 mmol), and cyclohexane-1-enyl boronic acid (322 mg, 2.56 mmol). The mixture was purified by trituration with DCM to afford the title compound (382 mg, 76%) as a yellow solid. Mass spectrum (ESI, m/z): Calcd. for C13H16N2O, 217.1 (M+H), found 217.2.

reactant | 4-amino-3-bromo-benzamide | NC1=C(C=C(C(=O)N)C=C1)Br | C7H7BrN2O
reactant | cyclohexane-1-enyl boronic acid | 2.56 mmol, 322 mg | C1(=CCCCC1)B(O)O | C6H11BO2
product | 4-Amino-3-cyclohex-1-enyl-benzamide | 382 mg, 76% | NC1=C(C=C(C(=O)N)C=C1)C1=CCCCC1 | C13H16N2O
